US05359098
2-(2-Chlorophenyl)-6-(6-(4-hydroxypiperidinyl)hexoxy)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, 2-chlorobenzoyl chloride, 1-bromo-6-chlorohexane, and 4-hydroxypiperidine: mp 176°-177° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 2-(2-Chlorophenyl)-6-(6-(4-hydroxypiperidinyl)hexoxy)-4H-1-benzopyran-4-one hydrochloride | Cl.ClC1=C(C=CC=C1)C=1OC2=C(C(C1)=O)C=C(C=C2)OCCCCCCN2CCC(CC2)O | InChI=1S/C26H30ClNO4.ClH/c27-23-8-4-3-7-21(23)26-18-24(30)22-17-20(9-10-25(22)32-26)31-16-6-2-1-5-13-28-14-11-19(29)12-15-28;/h3-4,7-10,17-19,29H,1-2,5-6,11-16H2;1H
